US07871998B2
tert-Butyl {4-[(2R,3R)-1-(4-chlorophenyl)-3-({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetate
tert-Butyl (4-{(1S,2R)-1-[(4-chlorophenyl)amino]-2-({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate (1.69 g, 2.06 mmol) was dissolved in dry toluene (140 ml) and heated to 90° C. under inert atmosphere. N,O-Bis(trimethylsilyl)acetamide (BSA, 1.48 ml, 6.05 mmol) was added and the mixture was stirred at 90° C. for one hour. The mixture was cooled to 45° C. and tetrabutylammonium fluoride (TBAF, 0.1 g) was added and the mixture was stirred at 45° C. for one hour and at room temperature overnight. The mixture was concentrated under reduced pressure and purified by flash-chromatography (10%-20% EtOAc in hexane). This afforded 0.84 g (61%) of the title compound as a white solid. 1H-NMR (CDCl3, 200 MHz): δ 0.6 (s, 3H), 1.2 (s, 3H), 1.5 (s, 9H), 2.9-3.1 (t, broad, 2H), 3.4 (s, 4H), 4.0 (s, 1H), 4.5 (s, 2H), 4.8 (s, 1H), 6.9 (d, 2H), 7.2-7.4 (m, 10H).

reactant | tert-Butyl (4-{(1S,2R)-1-[(4-chlorophenyl)amino]-2-({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-3-oxo-3-[(4S)-2-oxo-4-phenyl-1,3-oxazolidin-3-yl]propyl}phenoxy)acetate | 2.06 mmol, 1.69 g | ClC1=CC=C(C=C1)N[C@H]([C@H](C(N1C(OC[C@@H]1C1=CC=CC=C1)=O)=O)SCC1(OCC(CO1)(C)C)C1=CC=C(C=C1)Cl)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C43H46Cl2N2O8S
reactant | N,O-Bis(trimethylsilyl)acetamide | 6.05 mmol, 1.48 ml | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | tetrabutylammonium fluoride | 0.1 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl {4-[(2R,3R)-1-(4-chlorophenyl)-3-({[2-(4-chlorophenyl)-5,5-dimethyl-1,3-dioxan-2-yl]methyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetate | ClC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC1(OCC(CO1)(C)C)C1=CC=C(C=C1)Cl)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C34H37Cl2NO6S
